US04866065
A stirred solution of ethyl 4-methyl-2-(N1 -methylureido)-thiophene-3-carboxylate (2,3 g), triphenylphosphine (2,62 g), triethylamine (1.4 ml) and carbontetrachloride (5 ml) in CH2Cl2 (50 ml) was refluxed for 30 min, whereafter it was evaporated in vacuo. The oily residue was extracted twice with boiling petrol ether. The combined petrol ether solutions were evaporated to give N-methyl N'-(3-carbomethoxy-4-methyl-thien-2-yl)-carbodiimide as an oil. The presence of the carbodiimide moeity was confirmed by an IR absorbtion band at 2140 cm-1.

reactant | ethyl 4-methyl-2-(N1 -methylureido)-thiophene-3-carboxylate | 2,3 g | CC=1C(=C(SC1)N(C(=O)N)C)C(=O)OCC | C10H14N2O3S
reactant | triphenylphosphine | 2,62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | carbontetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-methyl N'-(3-carbomethoxy-4-methyl-thien-2-yl)-carbodiimide | CN=C=NC=1SC=C(C1C(=O)OC)C | C9H10N2O2S
